US04806650
Preparation of N-formyl-6-amino-6-deoxy-L-sorbose.
To a suspension of 40 g of Gluconobacter oxidans spp. suboxidans (DSM 50049) in 1 l of tap water, brought to pH 4.5 with phosphoric acid, are added at 32° C. and 700 rpm with venting of 3 l of air/hour 200 g of N-formylaminosorbitol, followed 4 hours later by a further 200 g of N-formylaminosorbitol. After 22 hours the reaction has ended, the cells are centrifuged off and discarded. The product is isolated as an oil by concentrating in vacuo.

reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | N-formylaminosorbitol | 200 g | C(=O)NC(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H15NO7
reactant | N-formylaminosorbitol | 200 g | C(=O)NC(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H15NO7
solvent | water | O | H2O
product | N-formyl-6-amino-6-deoxy-L-sorbose | C(=O)NC[C@@H]([C@H]([C@@H](C(CO)=O)O)O)O | C7H13NO6
